US08212041B2
6-((6-Phenyl-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methyl)quinoline
To a 50 ml round-bottomed flask was added 2-(quinolin-6-yl)acetic acid (0.60 g, 3.2 mmol), CH2Cl2 (20 ml) and oxalyl chloride (4.0 ml, 8.0 mmol, 2 M in CH2Cl2) and DMF (0.2 mL of a solution of 1 drop DMF in 1 mL CH2Cl2). After 3 d, an additional 2.5 eq. of oxalyl chloride was added. After 4 h, toluene (1 mL) was added and the mixture was concentrated. Toluene (3 mL) was added and again concentrated. The residue was taken up in CH2Cl2 (20 mL) and 1-(6-phenylpyridazin-3-yl)hydrazine (0.60 g, 3.2 mmol) was added. The mixture was stirred for 17 h and then concentrated. The mixture was then taken up in phosphorous oxychloride (20 ml, 220 mmol) and heated at 100° C. for 15 h. Toluene (5 mL) was added and the solution was concentrated. Another 5 mL toluene was added to the residue and once again it was concentrated. The brown solid residue was taken up in sat. NaHCO3 and extracted with EtOAc (4×150 mL) and 25% iPrOH/CHCl3 (3×150 mL). The combined extracts were washed with brine, dried (Na2SO4) and concentrated onto silica. Purification by silica gel chromatography (0 to 5% MeOH (2M in NH3)/CH2Cl2) afforded the title compound as a tan solid. MS (ESI, pos. ion) m/z: 338 (M+1).

reactant | 2-(quinolin-6-yl)acetic acid | 3.2 mmol, 0.60 g | N1=CC=CC2=CC(=CC=C12)CC(=O)O | C11H9NO2
reactant | oxalyl chloride | 8.0 mmol, 2 M, 4.0 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | oxalyl chloride | 2.5 eq. | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-(6-phenylpyridazin-3-yl)hydrazine | 3.2 mmol, 0.60 g | C1(=CC=CC=C1)C1=CC=C(N=N1)NN | C10H10N4
reactant | phosphorous oxychloride | 220 mmol, 20 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
solvent | Toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
solvent | DMF | CN(C)C=O | C3H7NO
product | 6-((6-Phenyl-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methyl)quinoline | C1(=CC=CC=C1)C=1C=CC=2N(N1)C(=NN2)CC=2C=C1C=CC=NC1=CC2 | C21H15N5
